US08809380B2
Step 2. ethyl 3-hydroxy-5-methoxypicolinate
3-hydroxy-5-methoxypicolinic acid (200 mg, 1.18 mmol) was dissolved in ethanol (10 mL). To the mixture was added one drop of sulfuric acid. The mixture was refluxed with stirring for 3 days. After cooling to room temperature, the mixture was concentrated in vacuo to afford an oil. The residual oil was dissolved in ethyl acetate and washed with aq. sodium bicarbonate and brine. The extract was dried over sodium sulfate and concentrated in vacuo to afford an oil. The residual oil was purified by silica gel column chromatography (ethyl acetate/hexane 1:3 to 1:1) to afford 178 mg (76%) of the title compound as a white solid.

reactant | 3-hydroxy-5-methoxypicolinic acid | 1.18 mmol, 200 mg | OC=1C(=NC=C(C1)OC)C(=O)O | C7H7NO4
reactant | ethanol | 10 mL | C(C)O | C2H6O
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 3-hydroxy-5-methoxypicolinate | 178 mg, 76% | OC=1C(=NC=C(C1)OC)C(=O)OCC | C9H11NO4
